US07605181B2
Step C: Synthesis of 3-(2,6-dimethylbenzyloxy)phenylpropionic acid
9.3 g of an oil containing ˜60% ethyl-3-(2,6-dimethylbenzyloxy)phenylpropionate was dissolved in 75 ml of absolute ethanol in a single necked, 250 ml round bottom flask equipped with a stir bar and reflux condenser. 4.0 ml of 7.5N sodium hydroxide was added to the solution. The light yellow solution was heated to reflux (80° C.) and stirred for 1 hr. The reaction was analyzed and LC-MS showed the desired product and no starting ester. The reaction was cooled to room temperature and concentrated in vacuo to afford a yellow oil. The oil was dissolved in 25 ml of water and extracted 3× with 25 ml of ether. The aqueous layer was cooled to <5° C. in an ice bath and acidified to a pH=1 by slowly adding 15 ml of 6N aqueous HCl solution. The precipitated solid were collected by filtration, washed 3X with 25 ml of water and air-dried. The solids were slurried in 100 ml of hexanes and collect by filtration, washed 3× with 25 ml of hexanes and air-dried. LC-MS showed the solids to be ˜80% desired product. The solids were heated to 70° C. in 44 ml of 3:1, absolute ethanol:water mixture. The solution was stirred and allowed to cool to room temperature in a tap water bath. The solids were collected by filtration, washed with 20 ml of 3:1, absolute ethanol:water mixture and air-dried. LC-MS showed the solid to be ˜98.5% desired product. The solids were heated to 70° C. in 36 ml of 3:1, absolute ethanol:water mixture. The solution was stirred and allowed to cool to room temperature in a tap water bath. The solids were collected by filtration, washed with 20 ml of a 3:1, absolute ethanol:water mixture and air-dried. LC-MS and NMR showed the solids to be >99.5% desired product. The white solid was dried in a vacuum oven at 40° C. for 2 hrs. to afford 3.91 g (52.9%).

reactant | ethyl-3-(2,6-dimethylbenzyloxy)phenylpropionate | C(C)C(C(=O)[O-])(C)C1=CC(=CC=C1)OCC1=C(C=CC=C1C)C
reactant | sodium hydroxide | 7.5N, 4.0 ml | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 3-(2,6-dimethylbenzyloxy)phenylpropionic acid | CC1=C(COC=2C=C(C=CC2)C(C(=O)O)C)C(=CC=C1)C | C18H20O3
